US05571506
Step 3: Preparation of Methyl 2-Tert-butyldimethylsilyloxymethyl-4-trimethylacetyloxycinnamate
To a solution of 2-tert-butyldimethylsilyloxymethyl-4-trimethylacetyloxybromobenzene (48 g) in dry dimethylformamide (460 ml) is added bis(triphenylphosphine)palladium dichloride (2.5 g). The resulting solution is degassed and dry triethylamine (67 ml) added, followed by methyl acrylate (42.6 ml). The resulting solution is stirred at 135° C. for about 1 hour, cooled, diluted with ether, washed with water, dried over magnesium sulfate, filtered, then concentrated under reduced pressure. The residue is purified by flash chromatography, eluting with 10% ether in hexanes, to give the desired product.

reactant | 2-tert-butyldimethylsilyloxymethyl-4-trimethylacetyloxybromobenzene | 48 g | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)OC(C(C)(C)C)=O)Br | C18H29BrO3Si
solvent | dimethylformamide | 460 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | 2.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-Tert-butyldimethylsilyloxymethyl-4-trimethylacetyloxycinnamate | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=O)OC)C=CC(=C1)OC(C(C)(C)C)=O | C22H34O5Si
